US04365017
Preparation of Dye 18, Table II 4-(p-N,N-Dimethylaminostyryl)-7-methoxybenzotelluropyrylium Tetrafluoroborate
N,N-Dimethylaminobenzaldehyde (0.50 g, 3.3 mmol) and 4-methyl-7-methoxybenzotelluropyrylium tetrafluoroborate (0.60 g, 1.3 mmol) in 5 ml of acetic anhydride were warmed on a steam bath for 3 minutes. Acetonitrile (10 ml) was added and the reaction mixture was chilled. The crude product was collected by filtration and recrystallized from acetonitrile to give 0.34 g (44%) of a golden-brown solid.

reactant | N,N-Dimethylaminobenzaldehyde | 3.3 mmol, 0.50 g | CN(C)C1=C(C=O)C=CC=C1 | C9H11NO
reactant | 4-methyl-7-methoxybenzotelluropyrylium tetrafluoroborate | 1.3 mmol, 0.60 g | F[B-](F)(F)F.CC1=C[CH+][Te]C2=C1C=CC(=C2)OC
reactant | Acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(p-N,N-Dimethylaminostyryl)-7-methoxybenzotelluropyrylium Tetrafluoroborate | 0.34 g, 44% | F[B-](F)(F)F.CN(C)C1=CC=C(C=CC2=C[CH+][Te]C3=C2C=CC(=C3)OC)C=C1 | InChI=1S/C20H20NOTe.BF4/c1-21(2)17-8-5-15(6-9-17)4-7-16-12-13-23-20-14-18(22-3)10-11-19(16)20;2-1(3,4)5/h4-14H,1-3H3;/q+1;-1
